US04663453
10-Bromo-7-(4-methyl-1-piperazinyl)- 2,3-dihydro-1H-quino[1,8-ab][1,5]benzodiazepine
A stirred solution of 4-methyl-N-[5-bromo-2-(1,2,3,4-tetrahydro-1-quinolinyl)phenyl]piperazinecarboxamide (8.6 g, 0.020 mole) in phosphorus oxychloride (200 ml) was heated under reflux under nitrogen for 6 hours. The reaction mixture was cooled to room temperature and excess phosphorus oxychloride was removed at aspirator pressure with heating. The residue was chilled in an ice-bath (with exclusion of moisture), and treated with ice-cold 2N sodium hydroxide solution (250 ml) and dichloromethane (250 ml). The mixture was stirred and triturated until the residue dissolved. The organic phase was separated, washed again with 2N sodium hydroxide solution, twice with water, dried over sodium sulfate, and concentrated in vacuo. The residue was taken up in 4N hydrochloric acid (100 ml), filtered, and the filrate was stirred 15 minutes with charcoal. After filtration, the solution was stirred with dichloromethane (100 ml), and the mixture was made alkaline by the addition of cold 2N sodium hydroxide solution. The organic phase was separated, washed twice with water, dried over sodium sulfate, and boiled 15 minutes with charcoal. After filtration, the solution was concentrated to give 4.6 g (56%) of product, as an oil, which crystallized on standing. The product was taken up in boiling methanol (20 ml) and allowed to crystallize first at room temperature, then in the refrigerator. Recrystallization from methanol afforded the analytical sample, mp 153°-156° C.

reactant | 4-methyl-N-[5-bromo-2-(1,2,3,4-tetrahydro-1-quinolinyl)phenyl]piperazinecarboxamide | 0.020 mole, 8.6 g | CN1CCN(CC1)C(=O)NC1=C(C=CC(=C1)Br)N1CCCC2=CC=CC=C12 | C21H25BrN4O
solvent | phosphorus oxychloride | 200 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 10-Bromo-7-(4-methyl-1-piperazinyl)- 2,3-dihydro-1H-quino[1,8-ab][1,5]benzodiazepine | 4.6 g, 56% | BrC=1C=CC2=C(N=C(C3=C4N2CCCC4=CC=C3)N3CCN(CC3)C)C1 | C21H23BrN4
